* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\Memristor_test\Leak-5.asc
R15 N011 Vin 10K
XU5 N009 N002 +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N002 D
D5 P001 N009 D
R21 N006 N009 0.1Meg
R22 0 N009 500K
R19 P001 0 100K
R20 N006 N002 150K
C6 N002 0 40n
C5 P001 N008 0.001µ
XU4 N011 N003 +5 -5 N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N011 1µ
R17 N010 N003 10K
R18 N010 N011 1Meg
R16 N003 0 1Meg
V1 +5 0 5
V2 0 -5 5
V3 Vin 0 PWL file=test1.txt
XU2 N010 N005 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 N005 +5 58K
R6 -5 N005 100K
XU1 N007 N001 +5 -5 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N001 D
D2 P002 N007 D
R1 N004 N007 0.1Meg
R2 0 N007 500K
R3 P002 0 100K
R5 N004 N001 150K
C1 N001 0 20n
C2 P002 N006 0.001µ
D6 N004 P003 D
R7 Vout P003 12K
R8 0 Vout 25K
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.5 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
